US03966766
Dissolve one equivalent of sodium in at least 5 equivalents of tetraethylene glycol and then add one equivalent of triethylene glycol monobenzenesulfonate. Heat the resulting solution at 100° to 150°C until the elimination of sodium benzene sulfonate is substantially complete. Remove the insoluble sulfonate salt by filtration and fractionally distill the resulting product in vacuo to obtain heptaethylene glycol as the higher boiling fraction.

reactant | sodium | one equivalent | [Na] | Na
reactant | tetraethylene glycol | at least 5 equivalents | C(COCCOCCOCCO)O | C8H18O5
reactant | triethylene glycol monobenzenesulfonate | one equivalent | C1(=CC=CC=C1)S(=O)(=O)OCCOCCOCCO | C12H18O6S
reactant | sodium benzene sulfonate | C1(=CC=CC=C1)S(=O)(=O)[O-].[Na+]
product | heptaethylene glycol | C(COCCOCCOCCOCCOCCOCCO)O | C14H30O8
